US05747517
The 1-(N,N-dimethylamino)methyl-3-methoxy-2-propylbenzene was then converted to the 3-hydroxy equivalent by adding the 1-(N,N-dimethylamino)methyl-3-methoxy-2-propylbenzene (238 g, 1.15 moles) to acetic acid (2.35 L) and then adding hydrobromic acid (1 L of a 48% solution). This mixture was then stirred at reflux for thirty hours. The acetic acid was removed and the residue was redissolved in ethanol. The ethanol was then removed and the residue was again redissolved in ethanol. Diethyl ether was added under a precipitate formed. Precipition was allowed to proceed overnight and the precipitate was collected by filtration to yield 216.2 grams (78.9%) of 1-(N,N-dimethylamino)methyl-3-hydroxy-2-propylbenzene hydrobromic salt.

reactant | 1-(N,N-dimethylamino)methyl-3-methoxy-2-propylbenzene | CN(C)CC1=C(C(=CC=C1)OC)CCC | C13H21NO
reactant | 1-(N,N-dimethylamino)methyl-3-methoxy-2-propylbenzene | 1.15 moles, 238 g | CN(C)CC1=C(C(=CC=C1)OC)CCC | C13H21NO
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 2.35 L | C(C)(=O)O | C2H4O2
product | 1-(N,N-dimethylamino)methyl-3-hydroxy-2-propylbenzene | 216.2 grams, 78.9% | CN(C)CC1=C(C(=CC=C1)O)CCC | C12H19NO
